US06608078B2
1-benzylpiperidin-4-one (10 g, 53.0 mmole) was added to the stirred suspension of potassium tert. butoxide (6.0 g, 54.0 mmole) in tetrahydrofuran (50 ml) at 10° C. The reaction mixture was stirred for 15 min, isopropyl iodide (10 g, 54.0 mmole) was added at 10° C. The resulting mixture allowed coming at room temperature and stirred for 16 hr, refluxed for 3 hr and concentrated to dryness. The residue was triturated with water, extracted with ethyl acetate, dried (Na2SO4) and concentrated to give crude product, which was purified through column chromatography. Elute from 10% ethyl acetate in hexane afforded 1-benzyl-3-isopropylpiperid-4-one. Yield 3.3 g (28%), C15H21NO, m/z 232 (M+1).

reactant | 1-benzylpiperidin-4-one | 53.0 mmole, 10 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | potassium tert. butoxide | 54.0 mmole, 6.0 g | CC(C)([O-])C.[K+]
reactant | isopropyl iodide | 54.0 mmole, 10 g | C(C)(C)I | C3H7I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-benzyl-3-isopropylpiperid-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(C)C | C15H21NO
